US07960369B2
1-(tert-butoxycarbonyl)-3-hydroxymethyl-1H-indole
To a solution of methyl 1-(tert-butoxycarbonyl)-1H-indole-3-carboxylate (2.5 g, 9.08 mmol) in anhydrous tetrahydrofuran (40 ml) was added 1.5 M diisobutylaluminum hydride-toluene solution (14 ml, 21 mmol) under ice-cooling, and the mixture was stirred for 2 hrs. An aqueous citric acid solution was added, and the mixture was extracted with ethyl acetate. The extract was washed successively with aqueous sodium chloride solution, dried over magnesium sulfate and concentrated under reduced pressure to give the title compound (2.3 g, 100%) as a pale-yellow oil.

reactant | methyl 1-(tert-butoxycarbonyl)-1H-indole-3-carboxylate | 9.08 mmol, 2.5 g | C(C)(C)(C)OC(=O)N1C=C(C2=CC=CC=C12)C(=O)OC | C15H17NO4
reactant | diisobutylaluminum hydride toluene | 21 mmol, 1.5 M, 14 ml | [H-].C(C(C)C)[Al+]CC(C)C.C1(=CC=CC=C1)C
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
product | 1-(tert-butoxycarbonyl)-3-hydroxymethyl-1H-indole | 2.3 g, 100% | C(C)(C)(C)OC(=O)N1C=C(C2=CC=CC=C12)CO | C14H17NO3
